US07994164B2
(E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3S,4S)-3-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide
Dissolve 4-[4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenylamino]-1-methyl-piperidin-3-ol (0.012 mol, 5.97 g) in tetrahydrofuran (50 mL). Add triethylamine (0.024 mol, 2.44 g) and 10% platinum on carbon (2.9 g) and hydrogenate in a Parr shaker at 50 psi (H2) at room temperature for 4 h. Filter off the catalyst through diatomaceous earth. Add pyridine (50 mL) and diphenyl N-cyanocarbonimidate (0.012 mol, 2.88 g) to the filtrate. Stir at room temperature for 16 h and then heat at 60-70° C. for 8 h. Remove the solvent under reduced pressure, dissolve the residue in dichloromethane and wash with water and saturated sodium bicarbonate solution. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify the residue on a silica gel column using 5% methanol in dichloromethane as eluent to obtain the title compound (1.7 g, 27%) as an off-white solid. LC-MS m/z 514.4 [M+H]+.

reactant | 4-[4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenylamino]-1-methyl-piperidin-3-ol | 0.012 mol, 5.97 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)NC2C(CN(CC2)C)O)[N+](=O)[O-])C=CC=C3F)C1 | C27H25F2N3O4
reactant | triethylamine | 0.024 mol, 2.44 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
reactant | diphenyl N-cyanocarbonimidate | 0.012 mol, 2.88 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | 2.9 g | [Pt] | Pt
product | (E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3S,4S)-3-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 1.7 g, 27% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@@H]4[C@H](CN(CC4)C)O)C=C2)C=CC=C3F)C1 | C29H25F2N5O2
